US08278442B2
Preparation 27: 5-Methoxynaphthalene-1-carbaldehyde
To a solution of 5-methoxynaphthalene-1-carbonitrile (Preparation 11) (1.1 g, 6.00 mmol) in DCM (40 mL) at −78° C. under nitrogen was added DIBAL (1.0M in toluene, 18 mL) dropwise over 10 minutes. The reaction mixture was stirred at −78° C. for 1 h, warmed to rt for 1 h and then cooled to 0° C. Acetic acid (1 mL) followed by water (1 mL) were added. The mixture was partitioned between EtOAc (100 mL) and water (100 mL), the organic phase was separated and dried (MgSO4). Solvent was removed in vacuo and the residue purified by column chromatography (EtOAc:isohexane 2:8) to give the title compound: RT=3.54 min; m/z (ES+)=187.0 [M+H]+.

reactant | 5-methoxynaphthalene-1-carbonitrile | 6.00 mmol, 1.1 g | COC1=C2C=CC=C(C2=CC=C1)C#N | C12H9NO
reactant | DIBAL | 1.0M, 18 mL | CC(C)C[AlH]CC(C)C
reactant | Acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | water | 1 mL | O | H2O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-Methoxynaphthalene-1-carbaldehyde | COC1=C2C=CC=C(C2=CC=C1)C=O | C12H10O2
